US08217064B2
Crude 2-[4-nitro-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-malonic acid diethyl ester (20.8 g, 43.6 mmol) was dissolved in a mixture of AcOH/12 N HCl (150 mL/150 mL) and the reaction mixture was refluxed for 16 h. The solvent was evaporated and water (100 mL) was added. The reaction mixture was extracted with EtOAc (3×100 mL). The organic layers were combined, washed with water (3×100 mL), and dried over MgSO4. The solvent was evaporated under reduced pressure to give a brown solid, which was washed with a mixture of Heptane/Et2O (100 mL/100 mL) to give [4-nitro-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester as a solid (10.0 g, 57%). 1H NMR (300 MHz, CDCl3/TMS): δ 6.71 (s, 2H), 4.45 (q, J=7.7 Hz, 4H), 4.18 (q, J=7.2 Hz, 2H), 3.63 (s, 2H), 1.28 (t, J=7.1 Hz, 6H). 13C NMR (75 MHz, CDCl3/TMS): δ 169.7, 149.6, 138.5, 132.4, 122.4 (q, 1JCF=277.6 Hz), 109.4 (two signals), 67.0 (q, 2JCF=37.2 Hz), 61.6, 41.4, 14.2.

reactant | 2-[4-nitro-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-malonic acid diethyl ester | 43.6 mmol, 20.8 g | C(C)OC(C(C(=O)OCC)C1=CC(=C(C(=C1)OCC(F)(F)F)[N+](=O)[O-])OCC(F)(F)F)=O | C17H17F6NO8
solvent | AcOH | 12 N, 150 mL | CC(=O)O | C2H4O2
product | [4-nitro-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester | 10.0 g, 57% | C(C)OC(CC1=CC(=C(C(=C1)OCC(F)(F)F)[N+](=O)[O-])OCC(F)(F)F)=O | C14H13F6NO6
